Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media - IV Dye / Penicillins
 
Attending: ___.
 
Chief Complaint:
Shortness of breath, diaphoresis, and presyncope 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH SVT (w/ recent holter monitoring), HTN, GERD (s/p ___ 
fundoplication ___, DM2, osteoporosis, colonic polyps, who 
presents for shortness of breath, diaphoresis, and presyncope. 

Patient reports over Last several days has had multiple episodes 
getting quickly winded with talking, walking a few steps, or 
walking upstairs. With associated palpitations, SOB, LH, 
diaphoresis. Denies chest pain recently (last felt pressure in 
chest w/ episodes >2 months ago). Episodes becoming more 
frequent, and today was concerned because episode lasted several 
hours (usually seconds to minutes). Denies any lower extremity 
swelling. She has been wearing a Holter monitor for about 2 
months. Has some ongoing diarrhea, at end of long taper of PO 
vanc for c. diff. Denies fever, chills, cough, abdominal pain, 
nausea, vomiting. Denies any history of DVT or asymmetric leg 
swelling. 

Most recent outpatient ILR device review: "ILR symptom and 
detected episode of narrow complex tachycardia on ___ at 
10:15 am device time rate 167 bpm. Spoke with patient, prior to 
ILR implant, when she experienced presyncope, chest tightness 
was closely associated but since device implant she hasnt 
experienced the chest tightness. On this day, right before her 
HR increased, she felt presyncopal then she sat down and it 
resolved." 

 
Past Medical History:
HTN
GERD (s/p ___ fundoplication ___
DM2
osteoporosis
colonic polyps 

 
Social History:
___
Family History:
Mother ABDOMINAL AORTIC ANEURYSM 
Father CORONARY ARTERY DISEASE, died of sudden cardiac death 
(unclear exactly how) 
Brother PROSTATE CANCER 
Sister BREAST CANCER 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS: 98.5  126/79  60  18  98/Ra  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dentures 
NECK: supple, no LAD, JVP 8cm
HEART: RRR, nl S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
=========================
VS: 98.2 PO 112 / 61 R Lying 55 16 98 RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL
NECK: supple, no LAD, JVP 8cm
HEART: RRR, nl S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
ABDOMEN: nondistended, nontender in all quadrants
EXTREMITIES: no edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, ambulating without difficulty 
SKIN: warm and well perfused
 
Pertinent Results:
ADMISSION LABS:
Trop (2:50PM on ___ < 0.01
CBC: WBC 9.1 Hgb 13.6 Hct 39.9 Plt 226
Chem 10: Na 147 K 3.8 Cl 108 CO2 22 AG 17 BUN 10 Cr 0.9 Ca 9.8 P 
1.9 Mg 2.0
UA: Neg nitrite, no bacteria, neg leukocytes

DISCHARGE LABS:
Chem 10: Na 145 K 4.1 Cl 108 CO2 24 AG 13 BUN 8 Cr 0.6 Ca 8.5 P 
3.7 Mg 2.0
CBC: WBC 4.7 Hgb 11.2 Hct 34.1 Plt 192
Trop (6:35AM on ___ < 0.01

STUDIES
___ CXR No acute intrathoracic process.
 
Brief Hospital Course:
Ms. ___ is a ___ with PMH of recent SVT diagnosis (w/ 
recent holter monitoring), HTN, GERD (s/p ___ fundoplication 
___, DM2, osteoporosis, colonic polyps, who presents for 
shortness of breath, diaphoresis, and presyncope. 

ACUTE
-----------
# SVT
On Holter review, her episodes of shortness of breath, 
diaphoresis, and dizziness/lightheadedness seem to be related to 
concurrent SVT. She was admitted for initiation of flecainide, 
dosed at 75mg BID. She tolerated this well and converted to 
sinus rhythm. She was able to ambulate without issues and no QRS 
changes, although she did note some "spacing out" symptoms 
associated with flecainide (not dizziness). She was advised to 
take meclizine as needed for nausea related to flecainide but to 
avoid Zofran. She was continued on home metoprolol 50mg BID.

CHRONIC
-----------
# C. Diff infection
Patient is on long PO vanc taper in setting of prior C. diff 
infection (next due on ___. She was maintained on contact 
precautions and continued on her home linaclotide, 
saccharomyces, and psyllium.

# DM2: Held metformin, continued on ISS

# Cardiac protection: Continued on aspirin and statin

# GERD: Continued ranitidine, was switched to omeprazole in 
place of esomeprazole during hospital stay due to medication 
availability.

# Hx colonic polyps: Continued Fe supplementation

# Osteoporosis: Continued calcium. Patient should continue to 
receive zolendronic acid injections as scheduled.

TRANSITIONAL
------------
[ ] Follow up with Lynx for recurrent arrhythmias
[ ] Assess for side effects of flecainide including worsening of 
her dizziness
[ ] Following completion of C.diff antibiotics, consider 
re-testing for C.diff toxin
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Phenazopyridine 200 mg PO TID:PRN bladder pain 
2. Metoprolol Tartrate 50 mg PO BID 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. zoledronic acid-mannitol-water 5 mg/100 mL injection annually 

5. Polyethylene Glycol 17 g PO DAILY:PRN contstipation 
6. Psyllium Powder 1 PKT PO TID:PRN loose stools 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN allergy 
8. Estrogens Conjugated 1 gm VG 2X/WEEK (MO,FR) 
9. DiphenhydrAMINE 25 mg PO DAILY:PRN allergy 
10. linaCLOtide 290 mcg oral DAILY 
11. Saccharomyces boulardii 500 mg oral BID 
12. Ranitidine 300 mg PO QHS 
13. Pravastatin 40 mg PO QPM 
14. Ferrous Sulfate 325 mg PO DAILY 
15. Naproxen 1000 mg PO DAILY:PRN Pain - Moderate 
16. esomeprazole magnesium 40 mg oral BID 
17. Calcium Carbonate 600 mg PO BID 
18. Aspirin 81 mg PO DAILY 
19. methenamine hippurate 1 gram oral BID 
20. Cyanocobalamin 500 mcg PO DAILY 
21. Ascorbic Acid ___ mg PO BID 
22. Vancomycin Oral Liquid ___ mg PO 2X/WEEK (MO,TH) 
23. Meclizine 12.5 mg PO Q12H:PRN dizziness 

 
Discharge Medications:
1.  Flecainide Acetate 75 mg PO Q12H 
RX *flecainide 50 mg 1.5 tablet(s) by mouth Every 12 hours Disp 
#*60 Tablet Refills:*0 
2.  Ascorbic Acid ___ mg PO BID  
3.  Aspirin 81 mg PO DAILY  
4.  Calcium Carbonate 600 mg PO BID  
5.  Cyanocobalamin 500 mcg PO DAILY  
6.  DiphenhydrAMINE 25 mg PO DAILY:PRN allergy  
7.  esomeprazole magnesium 40 mg oral BID  
8.  Estrogens Conjugated 1 gm VG 2X/WEEK (MO,FR)  
9.  Ferrous Sulfate 325 mg PO DAILY  
10.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN allergy  
11.  linaCLOtide 290 mcg oral DAILY  
12.  Meclizine 12.5 mg PO Q12H:PRN dizziness  
13.  MetFORMIN (Glucophage) 500 mg PO BID  
14.  methenamine hippurate 1 gram oral BID  
15.  Metoprolol Tartrate 50 mg PO BID  
16.  Naproxen 1000 mg PO DAILY:PRN Pain - Moderate  
17.  Phenazopyridine 200 mg PO TID:PRN bladder pain  
18.  Polyethylene Glycol 17 g PO DAILY:PRN contstipation  
19.  Pravastatin 40 mg PO QPM  
20.  Psyllium Powder 1 PKT PO TID:PRN loose stools  
21.  Ranitidine 300 mg PO QHS  
22.  Saccharomyces boulardii 500 mg oral BID  
23.  Vancomycin Oral Liquid ___ mg PO 2X/WEEK (MO,TH)  
24.  zoledronic acid-mannitol-water 5 mg/100 mL injection 
annually  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Supraventricular tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

Why did you come to the hospital?
- You came for episodes of shortness of breath and dizziness 
concerning for a fast heart rhythm

What happened while you were in the hospital?
- You were started on a medication called flecainide to help 
control your heart rhythm
- Your heart rate improved to normal rhythm in the ___

What should you do when you leave the hospital?
- It is important to follow up with your cardiologist and ensure 
the flecainide is working well for you
- If you have continued nausea, try to take the meclizine to 
help with your symptoms. Please avoid Zofran (ondansetron), 
which can interact with the flecainide and can cause heart 
rhythm abnormalities.
- If you have any chest pain, shortness of breath, or other 
symptoms of lightheadedness or dizziness, it is important to go 
to the ER.

It was a pleasure taking care of you! We wish you all the best.
- Your ___ Team
 
Followup Instructions:
___